US08859814B2
N-{1-[(4-methylpiperidin-1-yl)carbonyl]-3-pyridin-4-ylpropyl}-1H-indole-4-sulfonamide
Example 53 is prepared from 70 mg (0.19 mmol) of tert-butyl{1-[(4-methylpiperidin-1-yl)carbonyl]-3-pyridin-4-ylpropyl}carbamate and indole-4-sulfonyl chloride in the same manner as Example 49 (51 mg, 60% yield). ESI MS Calc. 440.2; Found: 441.3 (M+H)+.

reactant | tert-butyl{1-[(4-methylpiperidin-1-yl)carbonyl]-3-pyridin-4-ylpropyl}carbamate | 0.19 mmol, 70 mg | C(C)(C)(C)OC(NC(CCC1=CC=NC=C1)C(=O)N1CCC(CC1)C)=O | C20H31N3O3
reactant | indole-4-sulfonyl chloride | N1C=CC=2C(=CC=CC12)S(=O)(=O)Cl | C8H6ClNO2S
product | N-{1-[(4-methylpiperidin-1-yl)carbonyl]-3-pyridin-4-ylpropyl}-1H-indole-4-sulfonamide | CC1CCN(CC1)C(=O)C(CCC1=CC=NC=C1)NS(=O)(=O)C=1C=2C=CNC2C=CC1 | C23H28N4O3S
